US07268230B2
Using an analogous procedure to that described for the preparation of Example 11, 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2S)-pyrrolidin-2-ylmethoxy]quinazoline. (120 mg, 0.28 mmol) was reacted with acetyl chloride (24 μl, 0.34 mmol). The crude product was purified by column chromatography eluting with methanol/methylene chloride (2/98) to give 7-[(2S)-1-acetylpyrrolidin-2-ylmethoxy]-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline (76 mg, 58%).

reactant | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2S)-pyrrolidin-2-ylmethoxy]quinazoline | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@H]1NCCC1)C | C23H23FN4O3
reactant | acetyl chloride | 0.34 mmol, 24 μl | C(C)(=O)Cl | C2H3ClO
product | 7-[(2S)-1-acetylpyrrolidin-2-ylmethoxy]-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline | 76 mg, 58% | C(C)(=O)N1[C@@H](CCC1)COC1=C(C=C2C(=NC=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC | C25H25FN4O4
